US06506771B2
1-(4-iodophenyl)-4-(2,2,2-trifluoroacetyl)-2,3-piperidinedione prepared by the same methods described in WO 00/39131 (5.02 g, 12.2 mmol) and 3-cyanophenylhydrazine chloride (3.44 g, 20.4 mmol) were added together with 75 mL of Acetic acid. The mixture was refluxed for 4 hours. The mixture was cooled and the solvent was removed. The residue was partitioned between EtOAc and H2O. The EtOAc layer was washed with H2O, brine, dried over MgSO4, concentrated, and chromatographed with 1:5 EtOAc:hexane to afford 3.8 g of 1-(3-cyanophenyl)-3-(trifluoromethyl)-6-(4-iodophenyl)-1,4,5,6-tetrahydropyrazolo-[3,4-c]-pyridin-7-one as a yellow solid (61.3%). 1H NMR (CDCl3, 300 MHz) δ 7.91-7.90 (m, 1H), 7.87-7.83 (m, 1H), 7.75-7.69 (m, 3H), 7.56 (t, 1H), 7.09-7.04 (m, 2H), 4.15 (t, 2H), 3.19 (t, 2H).

reactant | 1-(4-iodophenyl)-4-(2,2,2-trifluoroacetyl)-2,3-piperidinedione | IC1=CC=C(C=C1)N1C(C(C(CC1)C(C(F)(F)F)=O)=O)=O | C13H9F3INO3
reactant | 3-cyanophenylhydrazine chloride | 20.4 mmol, 3.44 g | [Cl-].C(#N)C=1C=C(C=CC1)NN
solvent | Acetic acid | 75 mL | C(C)(=O)O | C2H4O2
product | 1-(3-cyanophenyl)-3-(trifluoromethyl)-6-(4-iodophenyl)-1,4,5,6-tetrahydropyrazolo-[3,4-c]-pyridin-7-one | 3.8 g, 61.3% | C(#N)C=1C=C(C=CC1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)I)=O)C(F)(F)F | C20H12F3IN4O
